US07030141B2
Step 1: (R)-2-(4-Bromo-2-fluoro-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester
Fmoc-D-Pro (1.2 g, 3.56 mmol) was suspended in 10 mL dry dichloromethane (DCM), cooled in an ice water bath, and then thionyl chloride (0.78 mL, 10.7 mmol) was added slowly. After addition was complete, the ice water bath was removed and the reaction was stirred at ambient temperature overnight. The solution was concentrated to dryness. The oil was redissolved in 20 mL dry DCM under an Ar atmosphere, and 4-bromo-2-fluoroaniline (0.81 g, 4.3 mmol) was added, followed by dry pyridine (0.87 mL, 10.7 mmol). The mixture was stirred at ambient temperature for 4 hours, then concentrated. The residue was redissolved in 100 mL EtOAc, washed with 1M HCl (3×50 mL), brine (2×50 mL), dried with MgSO4, filtered and concentrated to yield the title product as a sticky oil. (1.8 g, 99%) APCI (AP+): 509.2, 511.2 (M+H)+.

reactant | Fmoc-D-Pro | 3.56 mmol, 1.2 g | N1([C@@H](C(=O)O)CCC1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C20H19NO4
reactant | thionyl chloride | 10.7 mmol, 0.78 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-bromo-2-fluoroaniline | 4.3 mmol, 0.81 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | pyridine | 10.7 mmol, 0.87 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | DCM | 20 mL | ClCCl | CH2Cl2
product | (R)-2-(4-Bromo-2-fluoro-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1[C@H](CCC1)C(NC1=C(C=C(C=C1)Br)F)=O | C26H22BrFN2O3
